US07157464B2
Synthesis of 2-(5-Amino-3-furan-2-yl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1yl]-ethanone
Protocol T was followed using 3-Furan-2-yl-2H-pyrazol-5-ylamine, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using 100% ethyl acetate afforded the title compound as a white solid. 1H NMR (400 MHz, CD6CO); 7.48–7.52 (m, 1H), 6.98–7.06 (m, 2H), 6.52–6.56 (m, 2H), 6.44–6.48 (m, 2H), 5.74 (s, 1H), 4.98 (s, 2H), 3.68–3.88 (m, 4H), 3.12–3.24 (m, 4H). MS (ES) M+H) expected=369.4, found 370.1.

reactant | 3-Furan-2-yl-2H-pyrazol-5-ylamine | O1C(=CC=C1)C=1NN=C(C1)N | C7H7N3O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Amino-3-furan-2-yl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1yl]-ethanone | NC1=CC(=NN1CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C=1OC=CC1 | C19H20FN5O2
